US04908384
b. 8-Hydroxy-9(4-pentylphenoxy)-5-nonynoic acid
In a dry flask under N2 was placed 150 ml of HMPA (distilled over NaH) and 15.61 g (0.14 mole) of 5-hexynoic acid, the product of Example 1b, and the mixture cooled in an ice-water bath. A solution of 190 ml of n-BuLi in hexane (0.295 mole) was added dropwise into the flask with stirring. Stirring was continued for an additional 2 hr and 37 g of 2-(4-pentylphenoxymethyl)oxirane, the product of Example 7a, was added. After 2 days stirring, the resulting reaction mixture was poured into an ice water mixture and acidified with 3N HCl. The aqueous solution was extracted with Et2O three times. The organic layers were combined and then washed with aqueous 3N NH4OH. The NH4OH solution was acidified with 3N HCl and was extracted with Et2O. The ether solution was dried over MgSO4 and solvent removed to give an oil. The oil was purified by silical gel column chromatography (CHCl3 -MeOH) and then recrystallized in petroleum ether-EtOAc to give the title compound, mp 54°-57° C.

reactant | 5-hexynoic acid | 0.14 mole, 15.61 g | C(CCCC#C)(=O)O | C6H8O2
reactant | n-BuLi | 190 ml | [Li]CCCC
reactant | hexane | 0.295 mole | CCCCCC | C6H14
reactant | 2-(4-pentylphenoxymethyl)oxirane | 37 g | C(CCCC)C1=CC=C(OCC2OC2)C=C1 | C14H20O2
reactant | HCl | 3N | Cl | ClH
solvent | HMPA | 150 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 8-Hydroxy-9(4-pentylphenoxy)-5-nonynoic acid | OC(CC#CCCCC(=O)O)COC1=CC=C(C=C1)CCCCC | C20H28O4
